US06951856B2
Ethyleneglycol-mono-(4-bromo-phenyl)-ether (112 mg) was dissolved in 1,2-dimethoxyethane (5 ml) and potassium tert.-butoxide (50 mg) was added and stirring continued for 1 h, followed by the addition of 2-phenyl-ethenesulfonic acid [6-chloro-5-p-tolyl-pyrimidin-4-yl]-amide (100 mg) and stirring was continued at 80° C. for 24 h. The reaction mixture was evaporated to dryness, water (20 ml) was added followed by acidification with 10% citiric acid and extraction with ethyl acetate (2×, 20 ml). The combined organic layers were dried over sodium sulfate and the solvent was evaporated. The crude product was recrystallized from 2-propanol and 2-phenyl-ethenesulfonic acid {6-[2-(4-bromo-phenoxy)-ethoxy]-5-p-tolyl-pyrimidin-4-yl}-amide (90 mg) was obtained as a white powder; tR=6.12 (LC); [M−H]+=565.75 (ES−).

reactant | Ethyleneglycol mono-(4-bromo-phenyl)-ether | 112 mg | C(CO)O.BrC1=CC=C(C=C1)OC1=CC=C(C=C1)Br
reactant | potassium tert.-butoxide | 50 mg | CC(C)([O-])C.[K+]
reactant | 2-phenyl-ethenesulfonic acid [6-chloro-5-p-tolyl-pyrimidin-4-yl]-amide | 100 mg | ClC1=C(C(=NC=N1)NS(=O)(=O)C=CC1=CC=CC=C1)C1=CC=C(C=C1)C | C19H16ClN3O2S
solvent | 1,2-dimethoxyethane | 5 ml | COCCOC | C4H10O2
product | 2-phenyl-ethenesulfonic acid {6-[2-(4-bromo-phenoxy)-ethoxy]-5-p-tolyl-pyrimidin-4-yl}-amide | 90 mg | BrC1=CC=C(OCCOC2=C(C(=NC=N2)NS(=O)(=O)C=CC2=CC=CC=C2)C2=CC=C(C=C2)C)C=C1 | C27H24BrN3O4S
